US03983133
3.4 parts of p-chloro-α-(2-imidazoline-2-ylaminomethyl)benzyl alcohol are added to 30 parts of sulfuric acid 80% while stirring and cooling in an ice-bath. Upon completion, the whole is stirred for 2 hours at room temperature. The reaction mixture is poured onto crushed ice, alkalized with a concentrated sodium hydroxide solution and the product in base form is extracted with methylene chloride. The extract is dried, filtered and evaporated. The residue is dissolved in 2-propanol. The solution is filtered over diatomaceous silica and the filtrate is acidified with an excess of 2-propanol previously saturated with gaseous hydrogen chloride. The precipitated salt is filtered off, washed with acetone and dried, yielding 5-p-chlorophenyl)-2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole hydrochloride, m.p. 266.1°C.

reactant | p-chloro-α-(2-imidazoline-2-ylaminomethyl)benzyl alcohol | ClC1=CC=C(C(CNC=2NCCN2)O)C=C1 | C11H14ClN3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole hydrochloride | Cl.N1C=2N(CC1)CCN2 | InChI=1S/C5H9N3.ClH/c1-3-8-4-2-7-5(8)6-1;/h1-4H2,(H,6,7);1H
